US06683095B2
Synthesis of (E)-3-(3-fluoro-4-methoxyphenyl)-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (100 mg, 0.51 mmol) and 4-methoxy-3-fluorobenzaldehyde (95 mg, 0.61 mmol) were reacted according to the same procedure as Preparation 1 to give 127 mg (Yield 74%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 0.51 mmol, 100 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 4-methoxy-3-fluorobenzaldehyde | 0.61 mmol, 95 mg | COC1=C(C=C(C=O)C=C1)F | C8H7FO2
product | (E)-3-(3-fluoro-4-methoxyphenyl)-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 127 mg, Yield 74% | FC=1C=C(C=CC1OC)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C17H14FNO5
